US09102637B2
(b) 5-[4-(2-hydroxyacetamido)benzamido]-2-(naphthalen-2-ylamino)thiazole-4-carboxamide
To a mixture of 5-[4-(2-acetoxyacetamido)benzamido]-2-(naphthalen-2-ylamino)thiazole-4-carboxamide (0.10 g, 0.20 mmol) in MeOH (10 mL) was added K2CO3 (0.14 g, 0.99 mmol) and 1 drop of water at rt. The mixture was stirred for 16 hrs at rt. The insoluble material was filtered off, and the filtrate was concentrated in vacuo. The resulting solids were collected and washed with Et2O to give 0.008 g (5% yield) of the titled compound.

reactant | 5-[4-(2-acetoxyacetamido)benzamido]-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 0.20 mmol, 0.10 g | C(C)(=O)OCC(=O)NC1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC3=CC=CC=C3C=C2)C(=O)N)C=C1 | C25H21N5O5S
reactant | K2CO3 | 0.99 mmol, 0.14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | water | 1 drop | O | H2O
product | 5-[4-(2-hydroxyacetamido)benzamido]-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 0.008 g, 5% yield | OCC(=O)NC1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC3=CC=CC=C3C=C2)C(=O)N)C=C1 | C23H19N5O4S
